series_parallel_R1R2R3R4 - fault test
Vin in 0 DC 10
R1 in a 1012.108156
R2 a b 1981.563457
R3 a b 3050.554428
C4 b 0 2.3e-06
.op
.control
run
print v(a) v(b) v(in)
print @r1[i] @r2[i] @r3[i]
.endc
.end
